* CL21A106KOQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-09-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 10uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 16Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 3.3V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A106KOQNNN_Precise_DC3.3V_25degC 1 2
C1 1 3 6.17444E-6
C2 3 4 1.56848E-4
C3 4 5 2.38910E-4
C4 5 6 2.48669E-4
C5 6 7 2.54610E-4
C6 7 8 2.40905E-4
C7 8 9 1.26286E-4
C8 9 10 1.0E-10
C16 17 18 1.15249E-4
C17 18 19 3.49744E-4
C18 19 20 4.35392E-4
C19 20 21 5.63812E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 1.86240E-5
C24 25 26 2.12171E-6
C25 26 27 2.53303E-4
C26 27 28 4.91630E-11
C27 28 2 5.04455E-12
L10 11 12 8.47338E-11
L11 12 13 2.75254E-10
L12 13 14 4.67745E-11
L13 14 15 1.0E-10
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.75548E-10
L17 18 19 6.49716E-11
L18 19 20 2.80865E-11
L19 20 21 6.59070E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 5.74780E-11
L24 25 26 1.98662E-10
L25 26 27 1.0E-10
L26 27 28 2.84443E-11
L27 28 2 5.78298E-11
R1 1 3 1.0E8
R2 3 4 39.11102
R3 4 5 3.55069
R4 5 6 0.67247
R5 6 7 0.12740
R6 7 8 0.02348
R7 8 9 0.00654
R8 9 10 1.0E-6
R9 10 11 0.00137
R11 12 13 0.03013
R12 13 14 0.08996
R13 14 15 1.0E-6
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00126
R17 18 19 0.00122
R18 19 20 0.00305
R19 20 21 4.15038E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00462
R24 25 26 0.00770
R25 26 27 1.0E-6
R26 27 28 1.43561
R27 28 2 2.60221
.ENDS CL21A106KOQNNN_Precise_DC3.3V_25degC